US04876269
A solution of methanesulfonyl chloride (10.3 g) in methylene chloride (50 ml) was added rapidly in drops to a stirred and cooled (0.5° C) solution of trans-1,2,3,4-tetrahydro-2-hydroxy-1-(pyrrolidin-1-yl)naphthalene (10.3 g) and triethylamine (10 g) in methylene chloride (100 ml). After the addition was complete, the mixture was stirred at room temperature for 3 hours and then evaporated under reduced pressure. The residue was treated carefully with a 33% solution of methylamine in ethanol (125 ml) and the mixture was stirred at reflux for 2 hours followed by evaporation of the solvent under reduced pressure. The residue was treated with water and extracted twice with ether. The combined ether extracts were washed with 2N sodium hydroxide and then with water, dried over magnesium sulfate and evaporated under reduced pressure. The residual viscous liquid was distilled under vacuum to yield trans-1,2,3,4-tetrahydro-1-methylamino-2-(pyrrolidin-1-yl)naphthalene (6.2 g), b.p. 126°-134°/0.25 torr.

reactant | methanesulfonyl chloride | 10.3 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | trans-1,2,3,4-tetrahydro-2-hydroxy-1-(pyrrolidin-1-yl)naphthalene | 10.3 g | O[C@H]1[C@@H](C2=CC=CC=C2CC1)N1CCCC1 | C14H19NO
reactant | triethylamine | 10 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | trans-1,2,3,4-tetrahydro-1-methylamino-2-(pyrrolidin-1-yl)naphthalene | 6.2 g | CN[C@H]1[C@@H](CCC2=CC=CC=C12)N1CCCC1 | C15H22N2
